US04898977
5(S)-amino-6-cyclohexyl-4(S)-hydroxy-2(S)-isopropylhexanoic acid n-butylamide
21.3 g (0.06 mol) of 5(S)-azido-6-cyclohexyl-4(S)-hydroxy-2(S)-isopropylhexanoic acid n-butylamide in 240 ml of methanol are hydrogenated for 2 hours in the presence of 5 g of 10% palladium-on-carbon. The reaction mixture is filtered, concentrated in a rotary evaporator, and the residue is recrystallised from hexane: m.p. 88.5°-90°; [α]D -27.2°±0.9° (c=1.1, CHCl3).

reactant | 5(S)-azido-6-cyclohexyl-4(S)-hydroxy-2(S)-isopropylhexanoic acid n-butylamide | 0.06 mol, 21.3 g | C(CCC)NC([C@@H](C[C@@H]([C@H](CC1CCCCC1)N=[N+]=[N-])O)C(C)C)=O | C19H36N4O2
solvent | methanol | 240 ml | CO | CH4O
catalyst | palladium-on-carbon | 5 g | [Pd] | Pd
product | 5(S)-amino-6-cyclohexyl-4(S)-hydroxy-2(S)-isopropylhexanoic acid n-butylamide | C(CCC)NC([C@@H](C[C@@H]([C@H](CC1CCCCC1)N)O)C(C)C)=O | C19H38N2O2
